US07053089B2
4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester
4-[(3-Chloro-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester (2.72 g, 7.54 mmol) and 0.5 M sodium methoxide in methanol (40 mL) were heated under nitrogen at 60° C. for 2 days, cooled, evaporated and the residue partitioned between EtOAc and water. The organic layer was washed with brine, dried and solvent evaporated to afford crude material, purified by flash chromatography on silica (gradient 25 to 100% EtOAc hexane) to give the desired compound as a solid. The solid was stirred with approx. (10 mL) 2:1 isopropyl acetate:hexane and filtered to give the title compound as white solid. M.S.(M+1): 357.

reactant | 4-[(3-Chloro-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | 7.54 mmol, 2.72 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1Cl | C18H21ClN4O2
reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 4-[(3-Methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC1=NC=CN=C1OC | C19H24N4O3
